US04049807
20.3 g (0.1 mol) of β-chloroethyl-phenyl ketone together with 7.6 g (0.1 mol) of thiourea in 100 ml of ethanol in which 0.5% by weight of hydrogen chloride is dissolved, are heated to the boil (for about 3 to 4 hours) until the starting compounds can no longer be detected in a sample by thin-layer chromatography. Thereafter ethanol is azeotropically distilled off whilst toluene is continuously added in the same amount as ethanol distils off and the resulting toluene reaction mixture is boiled for a further 1/2 hour on the water separator. 23 g (about 88% of the theory) of crude 2-amino-4-phenyl-1,3-thiazine hydrochloride (m.p. 204° C.) separate out as faintly yellow-coloured crystals and are filtered off. By recrystallizing from ethanol, pure 2-amino-4-phenyl-1,3-thiazine-hydrochloride is obtained with a melting point of 210° C.

reactant | β-chloroethyl-phenyl ketone | 0.1 mol, 20.3 g | ClCCC(=O)C1=CC=CC=C1 | C9H9ClO
reactant | thiourea | 0.1 mol, 7.6 g | NC(=S)N | CH4N2S
reactant | water | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | hydrogen chloride | Cl | ClH
product | 2-amino-4-phenyl-1,3-thiazine-hydrochloride | Cl.NC1SC=CC(=N1)C1=CC=CC=C1 | InChI=1S/C10H10N2S.ClH/c11-10-12-9(6-7-13-10)8-4-2-1-3-5-8;/h1-7,10H,11H2;1H
